US04761410
To a solution of 2-(2-tritylaminothiazol-4-yl)-2difluoromethoxyiminoacetic acid (syn isomer) (0.8 g) and diisopropylethylamine (0.43 g) in N,N-dimethylformamide (20 ml) was added mesyl chloride (0.38 g) at -20° C. and the mixture was stirred at the same temperature for 30 minutes to give an activated acid solution. To a solution of 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (0.57 g) and N-trimethylsilylacetamide (1.8 g) in tetrahydrofuran (20 ml) was added the activated acid solution obtained above all at once at -10° C. After being stirred at the same temperature for an hour, the mixture was poured into water and adjusted to pH 2.5 with an aqueous solution of sodium bicarbonate. The precipitates were collected by filtration and washed with water to give 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.1 g).

reactant | 2-(2-tritylaminothiazol-4-yl)-2difluoromethoxyiminoacetic acid | 0.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(F)F | C25H19F2N3O3S
reactant | diisopropylethylamine | 0.43 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | mesyl chloride | 0.38 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.57 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
reactant | N-trimethylsilylacetamide | 1.8 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-[2-(2-tritylaminothiazol-4-yl)-2-difluoromethoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)=NOC(F)F | C35H27F2N7O5S4
